US06436964B1
A 100 mL round bottom flash was charged with 2-picoline (1.09 mL, 11.02 mmol) and anhydrous THF (15 mL). The solution was cooled to −78° C. and n-butyllithium (7.6 mL of a 1.6M solution in THF, 12.12 mmol) was added dropwise to the cooled solution. After addition was complete, the reaction mixture was warmed to room temperature over one hour and then cooled again to −78° C. N-methoxy-N-methyl cyclohexyl amide (2.0 g, 11.68 mmol) in THF (10 mL) was added dropwise to the reaction mixture. After addition was complete, the reaction was warmed to room temperature over one hour and then stirred for 40 hours. The reaction mixture was then treated with water and 1N HCl (keeping the pH at approximately 12). The reaction mixture was then extracted with methylene chloride (3×20 mL). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to provide an orange oil which was purified by flash chromatography (ethyl acetate:hexane, 3:7, silica gel) to provide 1-cyclohexyl-2-(2-pyridyl)ethan-1-one (2.06 g).

reactant | 2-picoline | 11.02 mmol, 1.09 mL | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-cyclohexyl-2-(2-pyridyl)ethan-1-one | 2.06 g | C1(CCCCC1)C(CC1=NC=CC=C1)=O | C13H17NO
